US07553854B2
Synthesis of [6-(2-Aminomethyl-pyridin-4-yloxy)-benzooxazol-2-yl]-cyclohexylmethyl-amine (Table 2, Compound 111)
The 2-((4-(2-(cyclohexylmethylamino)benzo[d]oxazol-6-yloxy)pyridin-2-yl)methyl)-isoindoline-1,3-dione (6.2 mg, 0.013 mmol, 1 eq) was dissolved in 0.5 mL of ethanol. And then hydrazine monohydrate (6.4 mg, 0.13 mmol, 10 eq) was added to the reaction mixture. The mixture was stirred at room temperature for 3 hours. And then the solvents were removed. The crude product was purified by reverse phase prep HPLC to give the title compound. MH+=353.0.

reactant | 2-((4-(2-(cyclohexylmethylamino)benzo[d]oxazol-6-yloxy)pyridin-2-yl)methyl)-isoindoline-1,3-dione | 0.013 mmol, 6.2 mg, 1 eq | C1(CCCCC1)CNC=1OC2=C(N1)C=CC(=C2)OC2=CC(=NC=C2)CN2C(C1=CC=CC=C1C2=O)=O | C28H26N4O4
reactant | hydrazine monohydrate | 0.13 mmol, 6.4 mg, 10 eq | O.NN
solvent | ethanol | 0.5 mL | C(C)O | C2H6O
product | [6-(2-Aminomethyl-pyridin-4-yloxy)-benzooxazol-2-yl]-cyclohexylmethyl-amine | NCC1=NC=CC(=C1)OC1=CC2=C(N=C(O2)NCC2CCCCC2)C=C1 | C20H24N4O2
